US07994325B2
Step A. 3-Methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one
Cesium carbonate (11.4 g, 34.9 mmol) was added to a solution of 3-methylpyridin-2(1H)-one (3.81 g, 34.9 mmol) and 2,2,2-trifluoroethyl trichloromethanesulfonate (9.81 g, 34.9 mmol) in dichloromethane (80 mL). After 2 h, water was added. The mixture was extracted with ether (3×), and the combined organic extracts were dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane 25%→methanol/dichloromethane) gave the title compound (3.73 g). MS192.3 (M+1).

reactant | Cesium carbonate | 34.9 mmol, 11.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-methylpyridin-2(1H)-one | 34.9 mmol, 3.81 g | CC=1C(NC=CC1)=O | C6H7NO
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | 34.9 mmol, 9.81 g | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
reactant | water | O | H2O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-Methyl-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | 3.73 g | CC=1C(N(C=CC1)CC(F)(F)F)=O | C8H8F3NO
